US08202868B2
f.4 4-Methyl-5-cyclobutyl-4H-[1,2,4]triazole-3-thiol
5 g of cyclobutyl carboxylic acid (49.9 mmol) were dissolved in 50 ml of dimethylformamide. Within 10 min. 12.15 g of 1,1′-carbonyldiimidazol (74.91 mmol) were added in portions. After stirring for 1 h at room temperature 23 ml of pyridin were added followed by the addition of 10.5 g of 4-methyl-3-thiosemicarbazide (99.88 mmol). The solution was stirred at room temperature for 72 h and then poured into 600 ml of ice water. Stirring was continued for 30 min. before the aqueous layer was extracted three times with 50 ml dichloromethane and three times with 50 ml ethyl acetate each. The combined organic layers were dried over magnesium sulfate, filtered, and the solvent was evaporated, thereby yielding 5.2 g of the crude title product which was used without further purification.

reactant | cyclobutyl carboxylic acid | 49.9 mmol, 5 g | C1(CCC1)C(=O)O | C5H8O2
reactant | 1,1′-carbonyldiimidazol | 74.91 mmol, 12.15 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pyridin | 23 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-methyl-3-thiosemicarbazide | 99.88 mmol, 10.5 g | CNC(NN)=S | C2H7N3S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Methyl-5-cyclobutyl-4H-[1,2,4]triazole-3-thiol | 5.2 g | CN1C(=NN=C1C1CCC1)S | C7H11N3S
